US06737429B2
A solution of 1.03 g of ethyl 4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate in 27 ml of anhydrous dichloromethane was treated with 2.06 g of N-iodosuccinimide and stirred at room temperature for 2 h. The mixture was diluted with a further 50 ml of dichloromethane and washed with 50 ml of saturated sodium thiosulphate solution and 50 ml of saturated sodium hydrogen carbonate solution. The dichloromethane extract was dried over anhydrous sodium sulphate then filtered and evaporated. The residue was triturated with 50 ml of petroleum ether (bp 40-60° C.). The orange solid product was filtered off and dried to give 1.32 g of ethyl 5-iodo-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate; mass spectrum (ESI) m/z 322 [M+H]+.

reactant | ethyl 4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate | 1.03 g | C(C)(C)C=1C(=C(NC1)C)C(=O)OCC | C11H17NO2
reactant | N-iodosuccinimide | 2.06 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 5-iodo-4-isopropyl-2-methyl-1H-pyrrole-3-carboxylate | 1.32 g | IC1=C(C(=C(N1)C)C(=O)OCC)C(C)C | C11H16INO2
